US08685969B2
1. 4-Bromo-3-formyl-1H-indole-7-carbonitrile
A solution of DMF (8.42 mL, 109 mmol) in CH2Cl2(105 mL) stirred on a salt-ice bath was treated dropwise with phosphorus oxychloride (2.57 mL, 27.6 mmol). After 15 min, 4-bromo-1H-indole-7-carboxamide (2 g, 8.37 mmol) was added in one portion while maintaining the temperature below −10° C. After addition, the mixture was stirred at room temperature overnight. After 16 h, ice was added, followed by NaHCO3 and 1 M aqueous NaOH added in portions to make the mixture basic. The mixture was extracted with dichloromethane (3 times), and the combined organic phases were washed with brine, dried and concentrated. The residue was subjected to column chromatography on silica gel (80 g), eluting with a gradient from 100% CH2Cl2 to 15% Methanol-85% CH2Cl2, to provide the desired product as a pale solid (1.36 g, 65% yield). LCMS (M+H)+ m/z 248.9, 250.9.

reactant | DMF | 109 mmol, 8.42 mL | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 27.6 mmol, 2.57 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-bromo-1H-indole-7-carboxamide | 8.37 mmol, 2 g | BrC1=C2C=CNC2=C(C=C1)C(=O)N | C9H7BrN2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | CH2Cl2 | 105 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-3-formyl-1H-indole-7-carbonitrile | 1.36 g, 65% yield | BrC1=C2C(=CNC2=C(C=C1)C#N)C=O | C10H5BrN2O
